US05679717
Butyroyl chloride (194.7 g, 1.83 mol) in 1 L of tetrahydrofuran was added to a three neck round bottom flask equipped with a thermometer, stir bar, and dropping funnel. The contents of the flask were then cooled to 15° C. in an ice bath while stirring. Allylamine (208.7 g, 3.65 mol) in 50 mL of tetrahydrofuran was then added slowly through the dropping funnel while maintaining stirring. Throughout the addition, the temperature was maintained at 15° C. After addition was complete, stirring continued for an additional 15 minutes, after which the solid allylamine chloride precipitate was filtered off. The filtrate was concentrated under vacuum to yield 236.4 g of N-allyl butyramide as a colorless viscous liquid.

reactant | Butyroyl chloride | 1.83 mol, 194.7 g | C(CCC)(=O)Cl | C4H7ClO
reactant | Allylamine | 3.65 mol, 208.7 g | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-allyl butyramide | 236.4 g | C(C=C)NC(CCC)=O | C7H13NO
